US06579883B1
7-[3-(tert-Butyldimethylsilyloxy)propyl]-1,2,3,3a,5,9b-hexahydrocyclopenta[c]-quinolin-4-one
At 0° C., 3.65 g (24.5 mmol) of tert-butyldimethylsilyl-chloride and 3.29 g (48.9 mol) of imidazole are added to a solution of 3.0 g (12.2 mmol) of 7-(3-hydroxypropyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 50 ml of DMF. After 3 hours, the batch is diluted with ethyl acetate, washed with water, 10% citric acid and saturated NaHCO3, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography with hexane-ethyl acetate on silica gel yields 4.62 g of product.

reactant | tert-butyldimethylsilyl-chloride | 24.5 mmol, 3.65 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 48.9 mol, 3.29 g | N1C=NC=C1 | C3H4N2
reactant | 7-(3-hydroxypropyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 12.2 mmol, 3.0 g | OCCCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C15H19NO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[3-(tert-Butyldimethylsilyloxy)propyl]-1,2,3,3a,5,9b-hexahydrocyclopenta[c]-quinolin-4-one | 4.62 g | [Si](C)(C)(C(C)(C)C)OCCCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C21H33NO2Si
